US09107848B2
a) Synthesis of 1-(chloroacetyl)-7-nitro-1,2,3,4-tetrahydroquinoline
1.78 g of 7-nitro-1,2,3,4-tetrahydroquinoline (0.01 mol) are dissolved in 15 ml of ethyl acetate. This solution is run into a mixture of 15 ml of ethyl acetate and 0.80 ml of chloroacetyl chloride. A white precipitate forms immediately, and stirring is continued at 30° C. for 2 h (the reaction is monitored by thin layer chromatography (90/10 ethyl acetate/heptane)). After 2 h, since the reaction is incomplete, 0.2 equivalent of chloroacetyl chloride is added and the temperature is raised to 60° C.; the solid formed undergoes dissolution. When the reaction has finished, the mixture is cooled and the solvent is evaporated off. 2.46 g of a beige product which corresponds to the expected compound are recovered.

reactant | 7-nitro-1,2,3,4-tetrahydroquinoline | 0.01 mol, 1.78 g | [N+](=O)([O-])C1=CC=C2CCCNC2=C1 | C9H10N2O2
reactant | chloroacetyl chloride | 0.80 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
reactant | chloroacetyl chloride | 0.2 equivalent | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-(chloroacetyl)-7-nitro-1,2,3,4-tetrahydroquinoline | ClCC(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C11H11ClN2O3
